US05859032
2-[2-(4-geranyloxybenzoylamino)acetylamino]pyridine
4-geranyloxybenzoic acid(1.81 g) was dissolved in chloroform(40 ml) and triethylamine(1.84 ml), and then diphenylphosphinic chloride(1.26 ml) was added thereto while being cooled with ice. After being stirred for 30 minutes, the mixture, with 2-(aminoacetylamino)pyridine(1.00 g) added thereto, was stirred for 2 hours at room temperature. The reaction mixture was washed with saturated sodium hydrogencarbonate aqueous solution and saturated brine successively, dried over sodium sulfate anhydride, and then concentrated under a vacuum. The residue was purified by silica gel column chromatography (chloroform:methanol=20:1). The resulting solid was recrystallized from n-hexane/ethyl acetate, thereby yielding 1.84 g of the aimed compound.

reactant | 4-geranyloxybenzoic acid | 1.81 g | C(\C=C(/C)\CCC=C(C)C)OC1=CC=C(C(=O)O)C=C1 | C17H22O3
reactant | diphenylphosphinic chloride | 1.26 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | 2-(aminoacetylamino)pyridine | 1.00 g | NCC(=O)NC1=NC=CC=C1 | C7H9N3O
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 1.84 ml | C(C)N(CC)CC | C6H15N
product | 2-[2-(4-geranyloxybenzoylamino)acetylamino]pyridine | 1.84 g | C(\C=C(/C)\CCC=C(C)C)OC1=CC=C(C(=O)NCC(=O)NC2=NC=CC=C2)C=C1 | C24H29N3O3
